US07951819B2
3-Bromo-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide (CJS 3690)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-bromo-benzoyl chloride to afford the title compound as a light brown solid (50 mg, 73%). 1H-NMR (δ, ppm, DMSO-d6): 6.50 (d, 1H, HPy,5, J=6.0 Hz), 6.92 (d, 1H, Harom, J=8.0 Hz), 7.43 (ps t, 1H, Harom, J=8.0 Hz), 7.48 (m, 1H, Harom), 7.62 (s, 1H, Harom), 7.66 (d, 1H, Harom, J=8.0 Hz), 7.78-7.84 (m, 2H, Harom+Py,6), 7.93 (d, 1H, Harom, J=8.0 Hz), 8.12 (s, 1H, Harom), 10.45 (s, 1H, NHamide), 11.23 (s, 1H, NHPy3), 11.44 (s, 1H, NHPy2). 13C-NMR (δ, ppm, DMSO-d6): 106.58, 110.82, 113.83, 114.62, 116.32, 121.66, 126.87, 128.24, 130.65, 130.87, 131.71, 136.80, 140.56, 141.08, 144.67, 147.00, 154.17, 154.68, 164.13. HRMS (EI): m/z [M+H] calcd for C19H14BrN4O3: 425.0249; found: 425.0248.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-bromo-benzoyl chloride | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
product | 3-Bromo-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzamide | 50 mg, 73% | BrC=1C=C(C(=O)NC2=CC(=CC=C2)OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C19H13BrN4O3
